US06511974B1
2-Chloro-4-iodo-benzoic Acid, Methyl Ester
4-Amino-2-methoxy-benzoic acid methyl ester (22.97 g) was cooled to an internal temperature of −10° C. in concentrated hydrochloric acid (110 ml) and stirred as a suspension. A precooled solution of sodium nitrite (98.71 g) in water (45 ml) was added to this mixture, at such a rate so as to maintain a reaction temperature of less than 0° C. After stirring for 25 minutes at 0° C. the reaction was treated with a solution of potassium iodide (24.44 g) and iodine (18.37 g) in water (50 ml) at such a rate so as to maintain a reaction temperature of less than −4° C. Ethyl acetate (100 ml) was added during the addition and the dark mixture was stirred at 0° C. for one hour. The organic layer was diluted with ethyl acetate and washed well with saturated sodium thiosulfate solution. The resulting orange solution was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to yield an oil which was purified by suction filtration through silica gel eluting with hexane/ethyl acetate (50/1). The resulting purified oil solidified on cooling to give 33.71 g of the title compound. MS, m/z: 296 (M)+.

reactant | 4-Amino-2-methoxy-benzoic acid methyl ester | 22.97 g | COC(C1=C(C=C(C=C1)N)OC)=O | C9H11NO3
reactant | sodium nitrite | 98.71 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 24.44 g | [I-].[K+]
reactant | iodine | 18.37 g | II | I2
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | water | 45 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-iodo-benzoic Acid, Methyl Ester | 33.71 g | ClC1=C(C(=O)OC)C=CC(=C1)I | C8H6ClIO2
